US06784192B2
1-[(2-Methoxy-3-pyridinyl)methyl]-4-[(2-methoxyphenoxy)methyl]piperidine
200 mg of 2-methoxy-3-(chloromethyl)pyridine, 380 mg of 4-[(2-methoxyphenoxy)methyl]piperidine and 235 mg of potassium carbonate were added in 10 ml of acetonitrile, and the mixture were stirred at room temperature for 3 hours 15 minutes. After filtering the reaction solution, the solvent was evaporated, and the crude product was purified by silica gel column chromatography (hexane:ethyl acetate=3:2), to give 359 mg of the title compound as a colorless oil.

reactant | 2-methoxy-3-(chloromethyl)pyridine | 200 mg | COC1=NC=CC=C1CCl | C7H8ClNO
reactant | 4-[(2-methoxyphenoxy)methyl]piperidine | 380 mg | COC1=C(OCC2CCNCC2)C=CC=C1 | C13H19NO2
reactant | potassium carbonate | 235 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[(2-Methoxy-3-pyridinyl)methyl]-4-[(2-methoxyphenoxy)methyl]piperidine | 359 mg | COC1=NC=CC=C1CN1CCC(CC1)COC1=C(C=CC=C1)OC | C20H26N2O3
